US04242507
N-Benzyloxycarbonyl-S-benzyl-L-cysteine (1.73 g) and glycine ethyl ester hydrochloride (0.70 g) are suspended into chloroform (20 ml) and therein is dissolved triethylamine (1.4 ml). To the solution is added 1-methanesulfonyloxy-1,2,3-benzotriazole (1.07 g) with stirring under ice-cooling. The mixture is stirred for 2 hours and then allowed to stand overnight. To the reaction mixture are added water and ethyl acetate. The ethyl acetate layer is separated and washed with water, 1 N hydrochloric acid, a saturated aqueous sodium hydrogen carbonate and water in order and then dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off and the resulting residue is crystallized from petroleum ether to give N-(N-benzyloxycarbonyl-S-benzyl-L-cysteinyl)glycine ethyl ester (1.25 g), melting pont: 89°-93° C. The product is identified with an authentic sample by infrared spectrum.

reactant | N-Benzyloxycarbonyl-S-benzyl-L-cysteine | 1.73 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CSCC1=CC=CC=C1)C(=O)O | C18H19NO4S
reactant | glycine ethyl ester hydrochloride | 0.70 g | Cl.C(C)OC(CN)=O
reactant | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 1-methanesulfonyloxy-1,2,3-benzotriazole | 1.07 g | CS(=O)(=O)ON1N=NC2=C1C=CC=C2 | C7H7N3O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | N-(N-benzyloxycarbonyl-S-benzyl-L-cysteinyl)glycine ethyl ester | 1.25 g | C(C)OC(CNC([C@@H](NC(=O)OCC1=CC=CC=C1)CSCC1=CC=CC=C1)=O)=O | C22H26N2O5S
